US03931195
2-(p-Bromophenyl)-1-(2-pyridyl)propane (11.5 g., 0.043 mole) is heated in 80 ml. of concentrated nitric acid (specific gravity 1.42, 69-71%) for 4.5 hr. at 80°C. The solution is cooled, quenched in 300 g. of ice, made alkaline with sodium hydroxide, and extracted with ethyl acetate. The extract washed with water and brine, dried over sodium sulfate, and evaporated affords 12.2 g. (88%) of oily nitrated product of sufficient purity to be used in following "step d". Distillation provides analytically pure 2-(4-bromo-2-nitrophenyl)-1-(2-pyridyl)propane, b.p. 172°-176°C. (0.2 mm. Hg.), nD 29 1.5968.

reactant | 2-(p-Bromophenyl)-1-(2-pyridyl)propane | 0.043 mole, 11.5 g | BrC1=CC=C(C=C1)C(CC1=NC=CC=C1)C | C14H14BrN
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-(4-bromo-2-nitrophenyl)-1-(2-pyridyl)propane | BrC1=CC(=C(C=C1)C(CC1=NC=CC=C1)C)[N+](=O)[O-] | C14H13BrN2O2
